US06107329
(2S)-Amino-1-(1,3-dihydro-isoindol-2-yl)-3-phenyl-propan-1-one hydrochloride
[(1S)-Benzyl-2-(1,3-dihydro-isoindol-2-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester (88 mg) was dissolved in cold 4N HCl-dioxane (1.5 mL), stirred 2 h at 25° C., and the mixture concentrated. The residue was triturated with ether and dried (65 mg, 91%). TSPMS 267 (MH+, 100%).

reactant | [(1S)-Benzyl-2-(1,3-dihydro-isoindol-2-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | 88 mg | C(C)(C)(C)OC(N[C@H](C(=O)N1CC2=CC=CC=C2C1)CC1=CC=CC=C1)=O | C22H26N2O3
reactant | HCl dioxane | 4N, 1.5 mL | Cl.O1CCOCC1
product | (2S)-Amino-1-(1,3-dihydro-isoindol-2-yl)-3-phenyl-propan-1-one hydrochloride | Cl.N[C@H](C(=O)N1CC2=CC=CC=C2C1)CC1=CC=CC=C1 | InChI=1S/C17H18N2O.ClH/c18-16(10-13-6-2-1-3-7-13)17(20)19-11-14-8-4-5-9-15(14)12-19;/h1-9,16H,10-12,18H2;1H/t16-;/m0./s1
